US08530667B2
To a solution of (4-ethyl-thiophen-2-yl)methanol (369 mg, 2 mmol) in THF (10 ml) is added sodium hydride, 60% dispersion in mineral oil, (88 mg, 2.2 mmol) in one portion and the reaction stirred at room temp for 3 hours. The resulting dark yellow solution is then cooled to 0° C., and 5-Chloro-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (341 mg, 2.4 mmol) is added and the resulting brown solution allowed to warm to ambient over 30 minutes, then stirred at room temp for 17 hours. Crude reaction is purified by flash chromatography to give 5-(4-ethyl-thiophen-2-ylmethoxy)-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one as a white solid (515 mg).

reactant | (4-ethyl-thiophen-2-yl)methanol | 2 mmol, 369 mg | C(C)C=1C=C(SC1)CO | C7H10OS
reactant | sodium hydride | [H-].[Na+]
reactant | 5-Chloro-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 2.4 mmol, 341 mg | ClC1=CC(C2C3CCC(C12)O3)=O | C9H9ClO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(4-ethyl-thiophen-2-ylmethoxy)-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 515 mg | C(C)C=1C=C(SC1)COC1=CC(C2C3CCC(C12)O3)=O | C16H18O3S
